US04731367
Under argon, 0.3 ml (1.5 mmol) of distilled hexamethyldisilazane is added to 4 ml of absolute, freshly distilled toluene, and the mixture is cooled to 0° C. Then 0.85 ml (1.4 mmol) of 15% butyllithium/hexane is added dropwise and the mixture is stirred for 15 minutes at 0° C. To this mixture is added 531 mg (1 mmol) of 3-[2-bromo-1-(tert-butyldimethylsilyl)-9,10-didehydro-6-methyl-8α-ergolinyl]-1,1-diethylurea in 50 ml of absolute, freshly distilled toluene and agitation is continued for another 15 minutes at 0° C. After adding 1 ml of distilled tetramethylethylenediamine, the batch is cooled to -90° C. At this temperature, 5 ml (7 mmol) of 1.4M tert-butyllithium is added and the mixture is agitated for 2 minutes before 0.6 ml (5.4 mmol) of the methyl ester of trifluoromethanesulfonic acid is added thereto. After 11/2 hours of agitation at -70° C., water is added to work up the reaction mixture. Extraction is performed with ethyl acetate. The organic phases are washed with saturated sodium bicarbonate solution and water. The combined ethyl acetate phases are dried over sodium sulfate and concentrated. Crystallization from methanol produces 128 mg of 3-[1-(tert-butyldimethylsilyl)-9,10-didehydro-2,6-dimethyl-8α-ergolinyl]-1,1-diethylurea (27% yield).

reactant | hexamethyldisilazane | 1.5 mmol, 0.3 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyllithium hexane | 1.4 mmol, 0.85 ml | C(CCC)[Li].CCCCCC
reactant | 3-[2-bromo-1-(tert-butyldimethylsilyl)-9,10-didehydro-6-methyl-8α-ergolinyl]-1,1-diethylurea | 1 mmol, 531 mg | BrC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1[Si](C)(C)C(C)(C)C)C32)NC(N(CC)CC)=O)C | C26H39BrN4OSi
reactant | tetramethylethylenediamine | 1 ml | CN(CCN(C)C)C | C6H16N2
reactant | tert-butyllithium | 7 mmol, 1.4M, 5 ml | C(C)(C)(C)[Li]
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[1-(tert-butyldimethylsilyl)-9,10-didehydro-2,6-dimethyl-8α-ergolinyl]-1,1-diethylurea | 128 mg, 27% yield | [Si](C)(C)(C(C)(C)C)N1C(=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C1C32)NC(N(CC)CC)=O)C)C | C27H42N4OSi
